US04160081
65.1 g (0.36 mol) of 4-aminophthalic acid in 500 ml of dioxane are reacted with 43.12 g (0.38 mol) of glutaric anhydride, in the manner described in Example 9, to give 4-glutaramidyl)-phthalic acid, and the latter is subsequently cyclised. 70 g (75% of theory) of 4-(glutarimidyl)-phthalic anhydride of melting point 220°-222° C. are obtained.

reactant | 4-aminophthalic acid | 0.36 mol, 65.1 g | NC=1C=C(C(C(=O)O)=CC1)C(=O)O | C8H7NO4
reactant | glutaric anhydride | 0.38 mol, 43.12 g | C1(CCCC(=O)O1)=O | C5H6O3
solvent | dioxane | 500 ml | O1CCOCC1 | C4H8O2
product | phthalic acid | C(C=1C(C(=O)O)=CC=CC1)(=O)O | C8H6O4
